US07968591B2
Synthesis of [4-(2-diethylamino-ethyl)-piperazin-1-yl]-[4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrol-2-yl]-methanone
EDCI (166 mg, 0.87 mmol) and HOAt (11 mg, 0.08 mmol) were added at 0° C. to a reaction mixture of 4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid (252 mg, 0.79 mmol) and 1-(2-diethylaminoethyl)-piperazine (146 mg, 0.79 mmol) in DCM (5 mL) and the reaction mixture was stirred for 30 min at 0° C. and overnight at RT. After removal of the solvent, purification proceeded by means of column chromatography and the desired product [4-(2-diethylamino-ethyl)-piperazin-1-yl]-[4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrol-2-yl]-methanone (148 mg, 38% of theoretical) was obtained.

reactant | EDCI | 0.87 mmol, 166 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.08 mmol, 11 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrole-2-carboxylic acid | 0.79 mmol, 252 mg | CC=1C(=C(N(C1)CC1=CC=C(C=C1)C)C(=O)O)C1=CC=C(C=C1)C | C21H21NO2
reactant | 1-(2-diethylaminoethyl)-piperazine | 0.79 mmol, 146 mg | C(C)N(CCN1CCNCC1)CC | C10H23N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [4-(2-diethylamino-ethyl)-piperazin-1-yl]-[4-methyl-1-(4-methylbenzyl)-3-p-tolyl-1H-pyrrol-2-yl]-methanone | 148 mg, 38% | C(C)N(CCN1CCN(CC1)C(=O)C=1N(C=C(C1C1=CC=C(C=C1)C)C)CC1=CC=C(C=C1)C)CC | C31H42N4O
